US07056987B2
1,6-dibromohexane (25 ml, 0.16 mol) and sodium sulfite (45.5 g, 0.36 mol) in water (85 ml) were heated at reflux for 16 h. The mixture was then filtered whilst hot and the filtrate was concentrated under reduced pressure to yield the hexane 1,6-disulfonic acid (39.3 g, 0.16 mol) which was used without further purification. The diacid was ground into a fine powder and powdered phosphorus pentachloride (84 g, 0.4 mol) was added carefully. After an initial vigorous reaction, the mixture was heated with mechanical stirring at 110° C. for 90 min., yielding a mustard coloured solution. On cooling the mixture was cautiously triturated with ice/water and the resultant solid filtered off. The solid was washed with water and dried under vacuum to afford the disulfonyl chloride hexane compound as a cream yellow solid (38.6 g, 96%). This material was used without purification in the next step.

reactant | 1,6-dibromohexane | 0.16 mol, 25 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium sulfite | 0.36 mol, 45.5 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 85 ml | O | H2O
product | hexane 1,6-disulfonic acid | 0.16 mol, 39.3 g | C(CCCCCS(=O)(=O)O)S(=O)(=O)O | C6H14O6S2
